US06369110B1
Ethyl 9-methyl-6,7-dihydro-5H-benzocycloheptene-8-carboxylate (0.70 g, 3.04 mmol) was added to a mixture of a 2N aqueous sodium hydroxide solution and ethanol, and the resulting mixture was stirred at 70° C. for 5 hours. The reaction mixture was concentrated under reduced pressure and the resulting residue was dissolved in water and washed with ethyl acetate. The aqueous layer was acidified with 35% hydrochloric acid and extracted twice with diethyl ether, and the extract solution was washed with a saturated aqueous sodium chloride solution and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to obtain 0.33 g of 9-methyl-6,7-dihydro-5H-benzocycloheptene-8-carboxylic acid.

reactant | Ethyl 9-methyl-6,7-dihydro-5H-benzocycloheptene-8-carboxylate | 3.04 mmol, 0.70 g | CC1=C(CCCC2=C1C=CC=C2)C(=O)OCC | C15H18O2
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 9-methyl-6,7-dihydro-5H-benzocycloheptene-8-carboxylic acid | 0.33 g | CC1=C(CCCC2=C1C=CC=C2)C(=O)O | C13H14O2
